US06414149B1
Step D: 1-[4-(6-Thiophen-3-yl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethanol
To a solution of (R)-1-[4-(6-thiophen-3-yl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethyl acetate (prepared according to the method of Example 248, Step C, 253 mg, 0.67 mmol) in a 3:1:1 mixture of methanol/tetrahydrofuran/water (5 mL) was added lithium hydroxide hydrate (84 mg, 2.0 mmol). This mixture was stirred at room temperature for 1 h, concentrated, re-suspended in water, and extracted with chloroform (4×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (2% methanol/chloroform) to give a yellow solid which was further purified by recrystallization from ether/methanol to give 163 mg (72%) of the title compound as a white solid. mp: 125.5-127.5° C.; 1H NMR (CDCl3, 300 MHz) δ8.22 (d, 1H), 7.47-7.35 (c, 5H), 7.22 (d, 1H), 6.42 (d, 1H), 4.78-4.72 (c, 2H), 4.46 (br s, 1H), 3.93-3.84 (c, 2H), 2.99 (t, 2H), 1.54 (d, 3H); MS (APCI) 338 (MH+).

reactant | (R)-1-[4-(6-thiophen-3-yl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethyl acetate | C(C)(=O)O[C@H](C)C1=NC=CC(=N1)N1CC2=CC=C(C=C2CC1)C1=CSC=C1 | C21H21N3O2S
reactant | lithium hydroxide hydrate | 2.0 mmol, 84 mg | O.[OH-].[Li+]
solvent | methanol tetrahydrofuran water | 5 mL | CO.O1CCCC1.O
product | 1-[4-(6-Thiophen-3-yl-3,4-dihydro-1H-isoquinolin-2-yl)-pyrimidin-2-yl]-ethanol | 163 mg, 72% | S1C=C(C=C1)C=1C=C2CCN(CC2=CC1)C1=NC(=NC=C1)C(C)O | C19H19N3OS
